US06410566B1
4-chlorobenzyl chloride (6.42 g, 39.9 mmol) and 1Pr2NEt (7.74 g, 40.0 mmol) were added to a solution of ethyl nipecotate (6.29 g, 40.0 mmol) in CH3CN (15 mL). The reaction mixture was stirred at 70° C. for 1.5 h. The solvent was removed under reduced pressure. Saturated aqueous NaHCO3 (50 mL) was added to the residue and the mixture was extracted with EtOAc (100 mL). The organic phase was washed with saturated aqueous NaHCO3 and brine, and dried over Na2SO4. The solvent was removed under reduced pressure to afford ethyl 1-(4-chlorobenzyl)nipecotate as a red yellow oil (11.025 g, 97.8%) used without further purification. The purity was determined by RPLC/MS (97%); ESI/MS m/e 382.2 (M++H, C15H21ClNO2).

reactant | 4-chlorobenzyl chloride | 39.9 mmol, 6.42 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | ethyl nipecotate | 40.0 mmol, 6.29 g | N1CC(C(=O)OCC)CCC1 | C8H15NO2
solvent | CH3CN | 15 mL | CC#N | C2H3N
product | ethyl 1-(4-chlorobenzyl)nipecotate | 11.025 g, 97.8% | ClC1=CC=C(CN2CC(C(=O)OCC)CCC2)C=C1 | C15H20ClNO2
